US06107458
To a suspension of 1-(4-Hydroxyphenyl)-4-tert-butoxycarbonylpiperazine (3 g) and potassium carbonate (0.82 g) in N,N-dimethylformamide (15 ml) was added octyl bromide (1.87 ml). The mixture was stirred for 10 hours at 70° C. The reaction mixture was added to a mixture of water and ethyl acetate. The organic layer was taken, and dried over magnesium sulfate. The magnesium sulfate was filtered off, and the filtrate was evaporated under reduced pressure. The residue was subjected to column chromatography on silica gel, and eluted with (hexane : ethyl acetate=9:1). The fractions containing the object compound were combined, and evaporated under reduced pressure to give 1-(4-n-Octyloxyphenyl)-4-tert-butoxycarbonylpiperazine (2.71 g).

reactant | 1-(4-Hydroxyphenyl)-4-tert-butoxycarbonylpiperazine | 3 g | OC1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C15H22N2O3
reactant | potassium carbonate | 0.82 g | C([O-])([O-])=O.[K+].[K+]
reactant | octyl bromide | 1.87 ml | C(CCCCCCC)Br | C8H17Br
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(4-n-Octyloxyphenyl)-4-tert-butoxycarbonylpiperazine | 2.71 g | C(CCCCCCC)OC1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C23H38N2O3
